US05536725
Sodium hydride (50% in mineral oil), 4.0 grams (0.084 mole), is placed in a reaction vessel and washed with three portions of hexane. The sodium hydride is then stirred with 30 mL of N,N-dimethylformamide, and a solution of 13.7 grams (0.084 mole) of 3,5-dichlorophenol in 45 mL of N,N-dimethylformamide is added dropwise. Upon completion of addition, the reaction mixture is warmed to 70°-90° C. where it is stirred for about 45 minutes. After this time the reaction mixture is cooled to about 2° C., and 13.4 grams (0.068 mole) of O-(2,4-dinitrophenyl)hydroxylamine [prepared by the method of T. Sheradsky et al., Tetrahedron, 28, 3833 (1972)] is added in one portion. Upon completion of addition, the reaction mixture is stirred at about 2° C. for 10 minutes. The cooling medium is then removed, and the reaction mixture is allowed to warm to ambient temperature where it is stirred for about 3.5 hours. After this time the reaction mixture is poured into about 1000 mL of ice-water. The resultant precipitate is collected by filtration and washed with water. The solid is dried and then is dissolved in ethyl acetate. The solution is then washed, in turn, with one 60 mL portion of aqueous 5% sodium hydroxide, one 150 mL portion of water, one 60 mL portion of aqueous 5% sodium hydroxide, two 300 mL portions of water, and one 100 mL portion of an aqueous solution saturated with sodium chloride. The organic layer is dried with sodium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding O-(3,5-dichlorophenyl)hydroxylamine.

reactant | Sodium hydride | [H-].[Na+]
reactant | 3,5-dichlorophenol | 0.084 mole, 13.7 grams | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | O-(2,4-dinitrophenyl)hydroxylamine | 0.068 mole, 13.4 grams | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
solvent | N,N-dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
product | O-(3,5-dichlorophenyl)hydroxylamine | ClC=1C=C(C=C(C1)Cl)ON | C6H5Cl2NO
